US07932281B2
Synthesis of 4-[(4,4-diethoxybutylamino)methyl]-benzonitrile
4-Formylbenzonitrile (612.0 mg) was dissolved in methanol (18.4 ml), and 4,4-diethoxybutylamine (752.5 mg) and trimethyl orthoformate (1.53 ml) were added thereto. The whole was stirred at room temperature for 18 hours. Subsequently, the solution was added with sodium borohydride (529.7 mg) under ice-cooling and stirred at room temperature for additional 30 minutes. The reaction solution was concentrated under reduced pressure. The residue was added with water and the whole was subjected to extraction with chloroform. The organic layer was washed with a saturated saline solution and dried with anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was purified through silica gel column chromatography (chloroform/methanol), thereby obtaining the subject compound (1.16 g) as a yellow oily substance.

reactant | 4-Formylbenzonitrile | 612.0 mg | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | 4,4-diethoxybutylamine | 752.5 mg | C(C)OC(CCCN)OCC | C8H19NO2
reactant | trimethyl orthoformate | 1.53 ml | C(OC)(OC)OC | C4H10O3
reactant | sodium borohydride | 529.7 mg | [BH4-].[Na+]
solvent | methanol | 18.4 ml | CO | CH4O
product | 4-[(4,4-diethoxybutylamino)methyl]-benzonitrile | 1.16 g | C(C)OC(CCCNCC1=CC=C(C#N)C=C1)OCC | C16H24N2O2
